US06756378B2
8,9 and 10 To a stirred mixture of Boc-prolinol (3.00 g, 14.9 mmol), ethyl p-hydroxybenzoate (2.40 g, 14.5 mmol), and triphenylphosphine (3.91 g, 14.9 mol) in THF (80 mL) was added dropwise diethyl azodicarboxylate (2.86 g, 16.4 mmol) at room temp. After the addition was completed, the resulting mixture was heated under reflux for 2 hr. After cooling, the mixture was concentrated in vacuo. The residue was dissolved in EtOAc and washed successively with 1 N NaOH, water, brine. The EtOAc layer was dried over MgSO4 and evaporated in vacuo. The residue was purified by column chromatography on silica gel with EtOAc-n-hexane (1:4, v/v) as eluent to give 4.88 g (93%) ethyl (S)-4-(1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxybenzoate as an oil.

reactant | Boc-prolinol | 14.9 mmol, 3.00 g | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | ethyl p-hydroxybenzoate | 14.5 mmol, 2.40 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | triphenylphosphine | 14.9 mol, 3.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 16.4 mmol, 2.86 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | ethyl (S)-4-(1-tert-butoxycarbonyl-2-pyrrolidinyl)methoxybenzoate | 4.88 g, 93% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C(=O)OCC)C=C1 | C19H27NO5
